US07230020B2
Synthesis of 2,5-dichloro-N-(2-methyl-quinolin-6-yl)-benzenesulfonamide. STX 937 (KRB01063)
To a solution of 2,5-dichlorobenzenesulphonyl chloride (163 mg, 0.664 mmol) in dichloromethane (4 mL) was added pyridine (130 μL, 1.58 mmol) and the mixture was stirred under N2 for 5 min, after which time 6-amino-2-methylquinoline (100 mg, 0.632 mmol) was added. The resulting mixture was stirred for 2 h at room temperature, then saturated NaHCO3 solution (10 mL) was added and the mixture was extracted into ethyl acetate (20 mL). The organic phase was washed with brine, dried (Na2SO4), filtered and evaporated to give a residue that was purified using flash chromatography to afford an off-white solid (120 mg, 52%), single spot at Rf 0.68 (ethyl acetate). mp 124.6-125.0° C., HPLC purity 99+% (tR 2.22 min in 10% water-acetonitrile). 1H NMR (CDCl3): δ 7.98 (1H, d, 2.2 Hz), 7.94 (1H, d, J=8.4 Hz), 7.88 (1H, d, J=8.9 Hz), 7.57 (1H, d, J=2.2 Hz), 7.45-7.35 (3H, m), 7.27-7.24 (2H, m), 2.68 (3H, s). LCMS: 365.10 (M−). FAB-MS (MH+, C16H12Cl2N2O2S): calcd 367.0075, found 367.0074.

reactant | 2,5-dichlorobenzenesulphonyl chloride | 0.664 mmol, 163 mg | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | pyridine | 1.58 mmol, 130 μL | N1=CC=CC=C1 | C5H5N
reactant | 6-amino-2-methylquinoline | 0.632 mmol, 100 mg | NC=1C=C2C=CC(=NC2=CC1)C | C10H10N2
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 2,5-dichloro-N-(2-methyl-quinolin-6-yl)-benzenesulfonamide | 120 mg, 52% | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)NC=1C=C2C=CC(=NC2=CC1)C | C16H12Cl2N2O2S
